US07238720B2
b) 3-(2,4,6-Trimethylphenyl)sulfonyl-1-(N-methyl-N-phenylcarbamoyl)-1H-1,2,4-triazole
3-(2,4,6-Trimethylphenyl)sulfonyl-1H-1,2,4-triazole and N-methyl-N-phenylcarbamoyl chloride were employed to synthesize the title compound as in Example 22.

reactant | 3-(2,4,6-Trimethylphenyl)sulfonyl-1H-1,2,4-triazole | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)C1=NNC=N1 | C11H13N3O2S
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | 3-(2,4,6-Trimethylphenyl)sulfonyl-1-(N-methyl-N-phenylcarbamoyl)-1H-1,2,4-triazole | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)C1=NN(C=N1)C(N(C1=CC=CC=C1)C)=O | C19H20N4O3S
